US08022250B2
Preparation of 4-bromo-3-fluorophenylcyclopropanenitrile
A solution of 4-bromo-3-fluorophenylacetonitrile (5 g, 23 mmoles) in toluene (20 ml) is added with 35 mmoles of 1,2-dibromoethane, a 50% NaOH aqueous solution (20 ml) and tetrabutylammonium bromide (1.6 g, 5 mmoles). The mixture is kept under stirring at room temperature for 5-12 hours, then diluted with water and extracted with ethyl acetate. The organic phase is washed with 1N HCl, then with brine, finally dried and concentrated under vacuum to give a brown solid, which is subjected to chromatography on a silica gel column (200 g), eluting with hexane-ethyl ether 1-1, to afford the product in the solid form.

reactant | 4-bromo-3-fluorophenylacetonitrile | 23 mmoles, 5 g | BrC1=C(C=C(C=C1)CC#N)F | C8H5BrFN
reactant | 1,2-dibromoethane | 35 mmoles | BrCCBr | C2H4Br2
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 5 mmoles, 1.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-bromo-3-fluorophenylcyclopropanenitrile | BrC1=C(C=C(C=C1)C1(CC1)C#N)F | C10H7BrFN
